US05599813
tert-Butyl 3-oxononanoate
In a mixture of 100 ml of dichloromethane and 32 ml of pyridine was dissolved 25.0 g of meldrum's acid. Under cooling with ice, 10.0 g of hexanoyl chloride was added dropwise to the solution, followed by stirring under room temperature for 1 hour. The solvent was removed and to the residue was added water. The mixture was extracted with ethyl acetate. The extract was washed with 1N hydrochloric acid and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the residue was dissolved in 100 ml of tert-butanol, followed by reflux under heating for 3 hours. The solvent was removed under reduced pressure. The residue was subjected to distillation under reduced pressure to yield 22.0 g of the oily titled compound.

reactant | meldrum's acid | 25.0 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | hexanoyl chloride | 10.0 g | C(CCCCC)(=O)Cl | C6H11ClO
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | pyridine | 32 ml | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 3-oxononanoate | 22.0 g | O=C(CC(=O)OC(C)(C)C)CCCCCC | C13H24O3
